US07087601B2
A mixture of 4-methyl-3-(trifluoromethyl)benzoic acid (1.0 g, 4.9 mmol) and thionyl chloride (15 mL) was refluxed for 3 h and then stirred at rt overnight. The excess thionyl chloride was removed in vacuo, the residue was dissolved in THF (20 mL), and it was added to a cooled (0° C.) solution of 2-aminophenol (0.53 g, 4.9 mmol) and diisopropylethylamine (1.0 mL, 5.9 mmol) in anhydrous THF (15 mL). The resulting brownish mixture was stirred at rt for 3 h. The solvent was then removed and p-toluenesulfonic acid (3.7 g, 19.6 mmol) and toluene (20 mL) were added to the dark oil. The mixture was then refluxed for 3 h and the mixture was cooled to rt. The excess p-toluenesulfonic acid was filtered through Celite and the filtrate was evaporated to dryness. The crude was purified by flash chromatography on silica gel eluting with EtOAc:hexanes (1:9) to afford 2-[4-methyl-3-(trifluoromethyl)phenyl]-1,3-benzoxazole as a colorless solid.

reactant | 4-methyl-3-(trifluoromethyl)benzoic acid | 4.9 mmol, 1.0 g | CC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C9H7F3O2
reactant | thionyl chloride | 15 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-aminophenol | 4.9 mmol, 0.53 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | diisopropylethylamine | 5.9 mmol, 1.0 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | p-toluenesulfonic acid | 19.6 mmol, 3.7 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[4-methyl-3-(trifluoromethyl)phenyl]-1,3-benzoxazole | CC1=C(C=C(C=C1)C=1OC2=C(N1)C=CC=C2)C(F)(F)F | C15H10F3NO
